US07834002B2
To 3.0 g of t-butyl 6-acetoxymethylpyridine-2-carboxylate were added 330 mg of potassium carbonate, 20 mL of methanol and 20 mL of water, and the mixture was stirred at room temperature for 3 hours. The methanol was removed under reduced pressure, then the residue was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was removed. The residue was purified by chromatography on silica gel (chloroform-ethanol 50:1) to give t-butyl 6-hydroxymethylpyridine-2-carboxylate as a yellow powder.

reactant | t-butyl 6-acetoxymethylpyridine-2-carboxylate | 3.0 g | C(C)(=O)OCC1=CC=CC(=N1)C(=O)OC(C)(C)C | C13H17NO4
reactant | potassium carbonate | 330 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | t-butyl 6-hydroxymethylpyridine-2-carboxylate | OCC1=CC=CC(=N1)C(=O)OC(C)(C)C | C11H15NO3
